US08357693B2
To a suspension of tert-butyl 5-(2-(3-(2-isopropoxy-2-oxoethoxy)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.26 mmol) in 1,4-dioxane (0.5 mL) was added a 4M solution of hydrogen chloride in 1,4-dioxane (3 mL) and stirred at RT for 16 h. The reaction mixture was concentrated in vacuo residue was purified using prep HPLC (method 10-35—90 mins) to afford isopropyl 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetate. (28 mg, 0.062 mmol, 24%)

reactant | tert-butyl 5-(2-(3-(2-isopropoxy-2-oxoethoxy)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.26 mmol | C(C)(C)OC(COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C31H31N5O5
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | isopropyl 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetate | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)OC(C)C)C=CC1 | C26H23N5O3
